US07935815B2
Synthesis of 5-(N′-tert-butoxycarbonylhydrazino)-2-hydroxy-5-oxo-4-(3,4,5-trifluorophenyl)pentyl toluene-4-sulfonate
p-Toluenesulfonyl chloride (605 mg) was added to a solution of tert-butyl N′-[4,5-dihydroxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate (1.09 g) in pyridine (11 mL) at room temperature. The reaction solution was stirred at room temperature for 12 hours and then concentrated under reduced pressure. Ethyl acetate was added to the residue, and the organic layer was washed with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 1.03 g of the title compound. The property value of the compound is as follows.

reactant | p-Toluenesulfonyl chloride | 605 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butyl N′-[4,5-dihydroxy-2-(3,4,5-trifluorophenyl)pentanoyl]hydrazinecarboxylate | 1.09 g | OC(CC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)CO | C16H21F3N2O5
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
product | 5-(N′-tert-butoxycarbonylhydrazino)-2-hydroxy-5-oxo-4-(3,4,5-trifluorophenyl)pentyl toluene-4-sulfonate | 1.03 g | C1(=CC=C(C=C1)S(=O)(=O)OCC(CC(C(=O)NNC(=O)OC(C)(C)C)C1=CC(=C(C(=C1)F)F)F)O)C | C23H27F3N2O7S
